US08471005B2
A mixture of 7-(4-Methyl-2-nitro-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (620 mg, 2.1 mmol), iron (346 mg, 6.19 mmol), ammonium chloride (55.2 mg, 1.03 mmol) in ethanol (12.0 mL, 206 mmol) and water (8 mL, 400 mmol) was heated at 100° C. The mixture was cooled, solvent was evaporated and was diluted with water and EtOAc. It was filtered through a pad of celite, extracted from EtOAc, combined organic was washed with brine. After drying, solvent was evaporated to give 5-Methyl-2-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenylamine as a solid (491 mg, 88%). LCMS (E/I+) 271. The product was taken to the next step without further purification.

reactant | 7-(4-Methyl-2-nitro-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 2.1 mmol, 620 mg | CC1=CC(=C(C=C1)C1=CC=C2C=NC(=NN21)SC)[N+](=O)[O-] | C14H12N4O2S
reactant | ammonium chloride | 1.03 mmol, 55.2 mg | [Cl-].[NH4+]
reactant | ethanol | 206 mmol, 12.0 mL | C(C)O | C2H6O
reactant | water | 400 mmol, 8 mL | O | H2O
catalyst | iron | 6.19 mmol, 346 mg | [Fe] | Fe
product | 5-Methyl-2-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenylamine | 491 mg, 88% | CC=1C=CC(=C(C1)N)C1=CC=C2C=NC(=NN21)SC | C14H14N4S
